US06358945B1
4-tert-Butyl-2-nitrotoluene (1.1 mmol) was dissolved in DMF (10 mL). The catalyst (10% Pd/C, 5 mg) was added followed by the addition of di-tert-butyl dicarbonate (1.4 mmol). The system was purged with argon then exposed to H2 (1 atm) for 12 h. The mixture was filtered over a pad of diatomaceous earth; the filtrate was diluted with water and extracted with EtOAc (3×10 mL). The combined organic extracts were washed with brine and dried (MgSO4). N-Boc-5-tert-butyl-2-methylaniline was obtained as a crystalline solid, 265 mg, after the evaporation of volatiles.

reactant | 4-tert-Butyl-2-nitrotoluene | 1.1 mmol | C(C)(C)(C)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H15NO2
reactant | di-tert-butyl dicarbonate | 1.4 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | [Pd] | Pd
product | N-Boc-5-tert-butyl-2-methylaniline | C(=O)(OC(C)(C)C)NC1=C(C=CC(=C1)C(C)(C)C)C | C16H25NO2
